US08247576B2
79B. 1-(4-Chloro-phenyl)-2-(2-hydroxy-ethylamino)-1-(4-iodo-phenyl)-ethanol
A solution of 2-(4-chloro-phenyl)-2-(4-iodo-phenyl)-oxirane (0.60 g, 1.68 mmol), ethanolamine (0.5 mL, 8.3 mmol) and triethylamine (0.5 mL, 3.6 mmol) in, iso-propanol (5 mL) was maintained at 50° C. for 72 hours then concentrated in vacuo. The residue was taken up in ethyl acetate and washed with saturated potassium carbonate solution/water (1:9). The aqueous phase was extracted a second time with ethyl acetate, then the combined extracts were washed with brine, dried (MgSO4), filtered and concentrated to give the title compound (701 mg, quantitative); LCMS (PS-A2) Rt 2.29 min [M+H]30 418, [M−H2O+H]+ 400.

reactant | 2-(4-chloro-phenyl)-2-(4-iodo-phenyl)-oxirane | 1.68 mmol, 0.60 g | ClC1=CC=C(C=C1)C1(OC1)C1=CC=C(C=C1)I | C14H10ClIO
reactant | ethanolamine | 8.3 mmol, 0.5 mL | C(O)CN | C2H7NO
reactant | triethylamine | 3.6 mmol, 0.5 mL | C(C)N(CC)CC | C6H15N
solvent | iso-propanol | 5 mL | C(C)(C)O | C3H8O
product | 1-(4-Chloro-phenyl)-2-(2-hydroxy-ethylamino)-1-(4-iodo-phenyl)-ethanol | 701 mg | ClC1=CC=C(C=C1)C(CNCCO)(O)C1=CC=C(C=C1)I | C16H17ClINO2
